US04954518
8.0 g of sodium hydroxide was dissolved in 240 ml of water. In this solution was dissolved 24.3 g of 3-acetylamino-4-phenoxyphenol. Thereto was added 10.9 g of 3-chloropropionic acid. The mixture was refluxed for 30 minutes. The reaction mixture was water-cooled. The resulting crystal was removed by filtration. The filtrate was adjusted to pH 9 with 4N hydrochloric acid and washed with two 50-ml portions of ethyl acetate. The aqueous layer was separated, adjusted to pH 4 with 4N hydrochloric acid, and extracted with 200 ml of ethyl acetate. The extract (the organic layer) was washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The resulting crystal was mixed with diethyl ether. The resulting crystal was collected by filtration to obtain 10.0 g (yield: 31.7%) of 3-(3-acetylamino-4-phenoxyphenoxy)propionic acid having a melting point of 138°-140° C.

reactant | sodium hydroxide | 8.0 g | [OH-].[Na+]
reactant | 3-chloropropionic acid | 10.9 g | ClCCC(=O)O | C3H5ClO2
reactant | 3-acetylamino-4-phenoxyphenol | 24.3 g | C(C)(=O)NC=1C=C(C=CC1OC1=CC=CC=C1)O | C14H13NO3
solvent | water | 240 ml | O | H2O
product | 3-(3-acetylamino-4-phenoxyphenoxy)propionic acid | 10.0 g, yield: 31.7% | C(C)(=O)NC=1C=C(OCCC(=O)O)C=CC1OC1=CC=CC=C1 | C17H17NO5
